US05543278
0.052 Mol of thiophosgene were mixed with 60 ml of water and were stirred for 15 minutes. 0.040 Mol of 3,5-bistrifluoromethylaniline were dropped with 30 ml chloroform, and the mixture was stirred for 2 hours at 15° C. The organic solution was washed with HCl 2M, dried and the solvent was removed under vacuum to obtain 3,5-bistrifluoromethylphenylisothiocyanate as a yellow-red oil, that was used as crude product.

reactant | thiophosgene | 0.052 Mol | C(=S)(Cl)Cl | CCl2S
reactant | water | 60 ml | O | H2O
reactant | 3,5-bistrifluoromethylaniline | 0.040 Mol | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,5-bistrifluoromethylphenylisothiocyanate | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=S)(F)F | C9H3F6NS
